US04281141
3-(imidazol-4-yl)-2-(2,4-dichlorophenyl)-2-phenylpropanenitrile
According to the scheme of Example 1, 2.04 g. of 50% sodium hydride, 11.64 g. of 2-(2,4-dichlorophenyl)-2-phenylacetonitrile, and 3.06 g. of 4-chloromethylimidazole hydrochloride were reacted at about 60° C. for 2 hours. The reaction mixture was then allowed to cool to ambient temperature and was stirred for 64 hours. The solvent was then evaporated and the reaction mixture was worked up as described in Example 1. The product was converted to the hydrochloride salt, and crystallized from ethyl acetate/diethyl ether to obtain 6.86 g. of the hydrochloride salt of the product named in the heading above, m.p. 215°-218° C.

reactant | sodium hydride | [H-].[Na+]
reactant | 2-(2,4-dichlorophenyl)-2-phenylacetonitrile | ClC1=C(C=CC(=C1)Cl)C(C#N)C1=CC=CC=C1 | C14H9Cl2N
reactant | 4-chloromethylimidazole hydrochloride | Cl.ClCC=1N=CNC1
product | 3-(imidazol-4-yl)-2-(2,4-dichlorophenyl)-2-phenylpropanenitrile | N1C=NC(=C1)CC(C#N)(C1=CC=CC=C1)C1=C(C=C(C=C1)Cl)Cl | C18H13Cl2N3
